US05243054
Methyl 2-butyl-1-[[2'-(2,5-dihydro-5-thioxo-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl]benzimidazol-7-carboxylate
To a mixture of methyl 2-butyl-1-[[2'-(acetoxycarbamimidoyl)biphenyl-4yl)methyl]benzimidazole-7-carboxylate (2.0 g) and CS2 (1.5 g) in DMF (12 ml) gas added sodium hydride (60% in oil, 0.56 g) during a period of 10 minutes and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into ice-water and the pH of the solution was adjusted to 3. The mixture was extracted with ethylacetate and the extract was washed with water, dried, and concentrated to dryness. The residue was crystallized from chloroformmethanol to afford pale yellow prisms (0.64 g, 32 %). m.p. 180°-181° C.

reactant | methyl 2-butyl-1-[[2'-(acetoxycarbamimidoyl)biphenyl-4yl)methyl]benzimidazole-7-carboxylate | 2.0 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(NOC(C)=O)=N)C(=CC=C2)C(=O)OC | C29H30N4O4
reactant | CS2 | 1.5 g | C(=S)=S | CS2
reactant | sodium hydride | 0.56 g | [H-].[Na+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | Methyl 2-butyl-1-[[2'-(2,5-dihydro-5-thioxo-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl]benzimidazol-7-carboxylate | 0.64 g, 32 % | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1NOC(N1)=S)C(=CC=C2)C(=O)OC | C28H26N4O3S
